US06599917B1
a) 2-Benzyl-6-[cis-3,4-(dimethymethylenedioxy)pyrrolidine-1-yl]pyridine
A mixture of 2.5 g of 2-benzyl-6-(cis-3,4-dihydroxypyrrolidine-1-yl)pyridine, 2.3 g of dl-10-camphorsulfonic acid, 20 ml of 2,2-dimethoxypropane and 5.0 ml of N,N-dimethylformamide was stirred at room temperature overnight. Aqueous saturated sodium bicarbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic phase was washed with water and brine, and the solvent was removed. Then, the residue was subjected to filtration through silica gel and eluted with ethyl acetate, to give 2.87 g of the target compound.

reactant | 2-benzyl-6-(cis-3,4-dihydroxypyrrolidine-1-yl)pyridine | 2.5 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@H](C1)O)O | C16H18N2O2
reactant | dl-10-camphorsulfonic acid | 2.3 g | CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | 2,2-dimethoxypropane | 20 ml | COC(C)(C)OC | C5H12O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 2-Benzyl-6-[cis-3,4-(dimethymethylenedioxy)pyrrolidine-1-yl]pyridine | 2.87 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]2[C@@H](C1)OC(O2)(C)C | C19H22N2O2
